US07816353B2
To a 200 mL recovery flask was added cyanuric chloride (504 mg, 2.73 mmol, 1.0 eq.) and CH2Cl2 (50 mL). The solution was cooled to 0° C. In a separate flask, a solution of 2-hydroxy-N-(3-trifluoromethyl-phenyl)-acetamide (599 mg, 2.73 mmol, 1.0 eq.) and i-Pr2NEt (524 μL, 2.00 mmol, 1.1 eq.) in 10 mL was prepared and then slowly added to the reaction flask. The reaction was stirred for 2 h while warming to room temperature. The reaction was quenched with H2O (50 mL). The organic phase washed with brine (1×50 mL). The combined aqueous phases were extracted with CH2Cl2 (2×25 mL). The combined organic phases were dried over anhydrous sodium sulfate, filtered, and concentrated to give an off-white solid. The crude material was purified via flash chromatography (1:4 EtOAc/Hexanes) to give 2-(4,6-dichloro-[1,3,5]triazin-2-yloxy)-N-(3-trifluoromethyl-phenyl)-acetamide as a white solid (600 mg, 60%). LC/MSD (HP Series 1100 MSD) Expected MW: 365.99, Observed M+H: 367.0, Retention time: 1.59. 1H-NMR, DMSO-d6, Varian 400 MHz δ 11.19 (s, 1H), 10.63 (s, 1H), 8.08 (s, 1H), 7.75 (d, 1H), 7.59 (t, 1H), 7.44 (d, 1H), 4.99 (s, 2H) ppm.

reactant | cyanuric chloride | 2.73 mmol, 504 mg, 1.0 eq. | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 2-hydroxy-N-(3-trifluoromethyl-phenyl)-acetamide | 2.73 mmol, 599 mg, 1.0 eq. | OCC(=O)NC1=CC(=CC=C1)C(F)(F)F | C9H8F3NO2
reactant | i-Pr2NEt | 2.00 mmol, 524 μL, 1.1 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(4,6-dichloro-[1,3,5]triazin-2-yloxy)-N-(3-trifluoromethyl-phenyl)-acetamide | 600 mg, 60% | ClC1=NC(=NC(=N1)Cl)OCC(=O)NC1=CC(=CC=C1)C(F)(F)F | C12H7Cl2F3N4O2
